US08232404B2
Step C. Preparation of 4-(piperidin-4-yloxy)-1-(pyridin-3-yl)pyridin-2(1H)-one hydrochloric acid salt
A mixture of tert-butyl 4-(2-oxo-1-(pyridin-3-yl)-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate (142 mg, 0.382 mmol), hydrogen chloride (4.0 M in 1,4-dioaxne, 1.5 mL, Aldrich) in MeOH (1.5 mL) was stirred at room temperature for 45 min and then concentrated to give the product (115 mg) as a light orange solid. The material was used in the next step without further purification. MS (ESI) 272 (M+H).

reactant | tert-butyl 4-(2-oxo-1-(pyridin-3-yl)-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | 0.382 mmol, 142 mg | O=C1N(C=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC=CC1 | C20H25N3O4
reactant | hydrogen chloride | 4.0 M, 1.5 mL | Cl | ClH
solvent | MeOH | 1.5 mL | CO | CH4O
product | 4-(piperidin-4-yloxy)-1-(pyridin-3-yl)pyridin-2(1H)-one hydrochloric acid salt | 115 mg | Cl.N1CCC(CC1)OC1=CC(N(C=C1)C=1C=NC=CC1)=O | InChI=1S/C15H17N3O2.ClH/c19-15-10-14(20-13-3-7-16-8-4-13)5-9-18(15)12-2-1-6-17-11-12;/h1-2,5-6,9-11,13,16H,3-4,7-8H2;1H
